US04479011
100 g of 2,6,6-trimethyl-1-[4-hydroxy-hepta-1,6-dien-4-yl]-cyclohex-2-ene have been added at room temperature and under stirring to a solution of 80 g of potassium tert-butoxide in 180 ml of dimethylformamide, while the temperature raised to 60°. After having been left at this temperature for 6 min., the mixture is put into an aqueous HCl solution (150 ml of conc. HCl/200 ml H2O). A vapour phase distillation has given 4 l of distillate which was then extracted with petrol ether (80°-100°). After the usual treatments of separation, drying and evaporation of the organic extracts, 71 g of a mixture of iso- α-damascone and α-damascone were obtained.

reactant | 2,6,6-trimethyl-1-[4-hydroxy-hepta-1,6-dien-4-yl]-cyclohex-2-ene | 100 g | CC=1C(C(CCC1)(C)C)C(CC=C)(CC=C)O | C16H26O
reactant | potassium tert-butoxide | 80 g | CC(C)([O-])C.[K+]
reactant | HCl | 150 ml | Cl | ClH
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | α-damascone | C/C=C/C(=O)C1C(=CCCC1(C)C)C | C13H20O
